US07217724B2
A solution of methyl 3-[(2R)-2-((2R)-2-hydroxy-2-pyridin-3-yl-ethylamino)propyl]-1H-indole-7-carboxylate (440 mg, 1.24 mmol) and potassium hydroxide (1.14 g, 20 mmol) in water (2 mL)/methanol (10 mL) is stirred at room temperature for 19 hours. After concentrated, the resultant is purified by reversed phase column chromatography (octadecylsilyl, trifluoroacetic acid/water/methanol) to give the desired 3-[(2R)-2-((2R)-2-hydroxy-2-pyridin-3-ylethylamino)propyl]-1H-indole-7-carboxylic acid.2 trifluoroacetate (560 mg, yield: 80%).

reactant | methyl 3-[(2R)-2-((2R)-2-hydroxy-2-pyridin-3-yl-ethylamino)propyl]-1H-indole-7-carboxylate | 1.24 mmol, 440 mg | O[C@@H](CN[C@@H](CC1=CNC2=C(C=CC=C12)C(=O)OC)C)C=1C=NC=CC1 | C20H23N3O3
reactant | potassium hydroxide | 20 mmol, 1.14 g | [OH-].[K+]
reactant | methanol | 10 mL | CO | CH4O
solvent | water | 2 mL | O | H2O
product | 3-[(2R)-2-((2R)-2-hydroxy-2-pyridin-3-ylethylamino)propyl]-1H-indole-7-carboxylic acid | O[C@@H](CN[C@@H](CC1=CNC2=C(C=CC=C12)C(=O)O)C)C=1C=NC=CC1 | C19H21N3O3
